US07091214B2
A suspension of 1-(4-aminobutyl)-7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine (2.00 g, 5.3 mmol) in chloroform (20 mL) was cooled to 0° C., and a solution of isopropyl isocyanate (5.3 mmol) in chloroform (3 mL/g) was added slowly over a period of eight minutes. After one hour, additional isopropyl isocyanate (0.53 mmol) in chloroform was added. Additional isopropyl isocyanate (2.15 mmol) was added again after an additional 2.5 hours. A precipitate was present and was isolated by filtration, washed with cold chloroform, and dried overnight on the filter funnel to provide 1.99 g of N-{4-[4-amino-7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl]butyl}-N′-(1-methylethyl)urea as a white solid.

reactant | 1-(4-aminobutyl)-7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 5.3 mmol, 2.00 g | NCCCCN1C(=NC=2C(=NC=3C=C(C=CC3C21)Br)N)CCC | C17H22BrN5
reactant | isopropyl isocyanate | 5.3 mmol | C(C)(C)N=C=O | C4H7NO
reactant | isopropyl isocyanate | 0.53 mmol | C(C)(C)N=C=O | C4H7NO
reactant | isopropyl isocyanate | 2.15 mmol | C(C)(C)N=C=O | C4H7NO
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | N-{4-[4-amino-7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl]butyl}-N′-(1-methylethyl)urea | 1.99 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCCCNC(=O)NC(C)C)CCC)Br | C21H29BrN6O
